US07132504B2
A suspension of Boc-L-4-hydroxyproline (N-Boc(2S,4R)-hydroxyproline) (3.85 g 16.6 millimole (“mmol”) (CHEM-IMPEX International) in DMSO (60 mL) was cooled in an ice bath for ˜3 minutes, and then t-BuOK (4.66 g, 41.5 mmol) was added. Stirring and cooling in the ice bath was continued for a few minutes until a solid mass formed. At this time the reaction mixture was allowed to warm to rt over 1.5 h to give a clear colorless solution. 1-Chloroisoquinoline (3.0 g, 18.3 mmol) was added in two portions 10 min apart. The reaction was stirred for 24 h at rt. The dark reaction mixture was partitioned between ether (200 mL) and water (600 mL). The aqueous phase was acidified to pH 4 using 4N HCl. The resulting milky yellow solution was extracted with ether (4×200 mL). The combined ether extracts were dried (MgSO4), filtered, and concentrated in vacuo to give a golden oil. Flash chromatography (2–4% MeOH/CH2Cl2) gave 5.69 g (96%) of 4-(isoquinolin-1-yloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester as an off-white solid: LC-MS (Method A, retention time: 3.06 min), MS m/z 359 (M++1).

reactant | Boc-L-4-hydroxyproline | CC(C)(C)OC(=O)N1CC(C[C@H]1C(=O)O)O | C10H17NO5
reactant | t-BuOK | 41.5 mmol, 4.66 g | CC(C)(C)[O-].[K+]
reactant | 1-Chloroisoquinoline | 18.3 mmol, 3.0 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | 4-(isoquinolin-1-yloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 5.69 g, 96% | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=NC=CC2=CC=CC=C12)C(=O)O | C19H22N2O5
